US06852755B1
(i) di-tert-butyl (2,3,4,5-tetrafluorobenzoyl)-L-glutamate
To an ice-cold solution of di-tert-butyl L-glutamate hydrochloride (6.6 g, 22.4 mmol) and Et3N (6.9 ml, 50 mmol) in dry CH2Cl2 (70 ml) was added, over a period of 1.5 hr, 2,3,4,5-tetrafluorobenzoyl chloride (5.0 g, 23.5 mmol) in dry CH2Cl2 (20 ml) and thirty minutes later the solution was allowed to warm to room temperature. Sixteen hours later the solution was washed with H2O, dried (MgSO4) and evaporated to dryness. 1H NMR δ 1.40+1.42 (2s, 18H, t-butyl), 1.85+1.95 (2m, 2H, CH2CH), 2.34 (t, 2H, CH2CO, J=7.5 Hz), 4.3 (m, 1H, CH), 7.57 (m, 1H, H6), 8.80 (d, 1H, NH, J=7.5 Hz); 19F NMR δ −138.6+139.0 (2m, 2F, F2+5), −152.4 (m, 1H, F4), −154.9 (t, 1F, F3, J=20 Hz).

reactant | di-tert-butyl L-glutamate hydrochloride | 22.4 mmol, 6.6 g | Cl.N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C
reactant | Et3N | 50 mmol, 6.9 ml | CCN(CC)CC | C6H15N
reactant | 2,3,4,5-tetrafluorobenzoyl chloride | 23.5 mmol, 5.0 g | FC1=C(C(=O)Cl)C=C(C(=C1F)F)F | C7HClF4O
solvent | CH2Cl2 | 70 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | di-tert-butyl (2,3,4,5-tetrafluorobenzoyl)-L-glutamate | FC1=C(C(=O)N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C(C(=C1F)F)F | C20H25F4NO5
